### PR TITLE
[Merged by Bors] - feat(Topology/Connected): local (path-)connectedness of products and pi types

### PR DESCRIPTION
**Pull request by korbonits**
Add product and pi instances for `LocallyConnectedSpace` and `LocallyPathConnectedSpace`, together with a full characterization of local (path-)connectedness of pi types:

- `Prod.locallyConnectedSpace` / `Prod.locallyPathConnectedSpace`: binary products.
- `Pi.locallyConnectedSpace_of_finite_not_preconnectedSpace` / `Pi.locallyPathConnectedSpace_of_finite_not_pathConnectedSpace`: a product of locally (path-)connected spaces is locally (path-)connected provided all but finitely many factors are preconnected (resp. path-connected). The `Finite ι` and all-factors-preconnected (resp. path-connected) instances are corollaries.
- `Pi.locallyConnectedSpace_iff` / `Pi.locallyPathConnectedSpace_iff`: a product is locally (path-)connected iff it is empty or the above conditions hold.
- Topology.IsCoinducing.locallyConnectedSpace: a topology coinduced by a locally connected topology is locally connected (used for the forward direction via the projections). Since IsQuotientMap is by definition IsCoinducing, this covers quotient maps; the analogous IsQuotientMap.locallyPathConnectedSpace already existed.

Supporting API in Topology/Connected/Basic.lean:
- ContinuousOn.image_connectedComponentIn_subset, ContinuousOn.mapsTo_connectedComponentIn, ContinuousOn.preimage_connectedComponentIn: ContinuousOn generalizations of the existing Continuous lemmas.
- Continuous.preimage_connectedComponent: the connectedComponent form of the preimage lemma.
- Deprecates Continuous.image_connectedComponentIn_subset and Continuous.mapsTo_connectedComponentIn in favor of the ContinuousOn versions.

---

Follow-up to #40092.

AI disclosure

- level: Level 5 / Level 6 in [the link shared](https://www.visidata.org/blog/2026/ai/#self-assessed-ai-level-for-contributions) -- I feel confident about the math but I am still learning Lean itself
- code: most of the Lean in this PR was drafted by Claude Code (statements, proofs, docstrings).
- direction and review: I chose the contribution, made the decisions (e.g., PathConnectedSpace for the path-side hypothesis, strengthening the helper to coinducing maps), reviewed every line, and wrote all GitHub/Zulip comments.
- testing: I ran local `lake build` of files and `lake env lean` of some test files (uncommitted)

### CODE REVIEW

**Comment by korbonits** [comment]
LLM-generated

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 1]
```diff
@@ -162,4 +162,50 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+    set_pi_mem_nhds finite_univ fun i _ ↦ connectedComponentIn_mem_nhds (ht i),
+    isPreconnected_univ_pi fun i ↦ isPreconnected_connectedComponentIn,
+    fun f hf ↦ htU fun i hiJ ↦ connectedComponentIn_subset _ _ (hf i trivial)⟩
+
+/-- A product of connected, locally connected spaces is locally connected. Note that an arbitrary
+product of locally connected spaces need not be locally connected, so the connectedness assumption
+cannot be dropped (it can when the index type is finite, see
+`Pi.locallyConnectedSpace_of_finite`). -/
+instance Pi.locallyConnectedSpace [∀ i, TopologicalSpace (X i)]
+    [∀ i, LocallyConnectedSpace (X i)] [∀ i, ConnectedSpace (X i)] :
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
    [∀ i, LocallyConnectedSpace (X i)] [∀ i, PreconnectedSpace (X i)] :
```
can you also change the corresponding docstring?

**Review by CoolRmal — COMMENTED** [review]
I think here's a better design. May you first prove the following?
```
theorem Pi.locallyConnectedSpace_of_finite_nonpreconnected
    [∀ i, TopologicalSpace (X i)] [∀ i, LocallyConnectedSpace (X i)]
    (hfinite : {i | ¬PreconnectedSpace (X i)}.Finite) : LocallyConnectedSpace (∀ i, X i) := sorry
```
which is saying that if every `X i` is locally connected and the set of `i` such that `X i` is not preconnected is finite, then `LocallyConnectedSpace (∀ i, X i)`. `Pi.locallyConnectedSpace_of_finite` and `Pi.locallyConnectedSpace` should then be easy corollaries.

You can then do something similar for locally path connected space.

**Comment by CoolRmal** [comment]
awaiting-author

**Comment by CoolRmal** [comment]
And maybe if you want you can also prove the following characterization of locally connectedness of the product: `∀ i, X i` is locally connected if either it is empty or every `X i` is locally connected and `{i | ¬PreconnectedSpace (X i)}.Finite`. To prove this I think you need to show first that if `f : X → Y` is open continuous surjective and `X` is locally connected, then so is `Y`.

File: Mathlib/Topology/Connected/LocallyConnected.lean (hunk 1 above)
Comment (korbonits) [reply Mathlib/Topology/Connected/LocallyConnected.lean]: Done ✅

**Comment by korbonits** [comment]
> And maybe if you want you can also prove the following characterization of locally connectedness of the product: `∀ i, X i` is locally connected if either it is empty or every `X i` is locally connected and `{i | ¬PreconnectedSpace (X i)}.Finite`. To prove this I think you need to show first that if `f : X → Y` is open continuous surjective and `X` is locally connected, then so is `Y`.

Is it OK if I do this in a follow-up PR or would you prefer to see it in this PR? I can commit to that as a fast follow. I think the helper lemma deserves its own visibility! Open to your thoughts here :) @CoolRmal

**Comment by CoolRmal** [comment]
I think it is fine to include these lemmas in this single PR, but maybe you can change the PR description a little bit.

**Comment by grunweg** [comment]
Hello from triage! Can you comment on whether you used AI for this project (and if so, label with PR with LLM-generated)? Thanks! (Per mathlib's [AI policy](https://leanprover-community.github.io/contribute/#use-of-ai), this is not forbidden in principle, but its usage must be disclosed.)

**Comment by korbonits** [comment]
@grunweg -- correct! I added the LLM-generated tag after pushing the PR to make sure it was tagged correctly. Let me know if there's anything I can do to provide more transparency about my AI usage.

**Comment by grunweg** [comment]
> @grunweg -- correct! I added the LLM-generated tag after pushing the PR to make sure it was tagged correctly. Let me know if there's anything I can do to provide more transparency about my AI usage.

Thanks. Can you also describe how you used AI in the PR description, below the fold? ([This scale](https://www.visidata.org/blog/2026/ai/#self-assessed-ai-level-for-contributions) has some categories that may be helpful.)

**Comment by CoolRmal** [comment]
You should remove the awaiting author label if you want another round of review.

**Comment by korbonits** [comment]
-awaiting-author

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 2]
```diff
@@ -151,6 +151,22 @@ theorem IsOpen.locallyConnectedSpace [LocallyConnectedSpace α] {U : Set α} (hU
     LocallyConnectedSpace U :=
   hU.isOpenEmbedding_subtypeVal.locallyConnectedSpace
 
+/-- The image of a locally connected space under a quotient map (in particular, under an open
+continuous surjection) is locally connected. -/
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
/-- The image of a locally connected space under a quotient map is locally connected. -/
```
I think there's no need to mention that an open continuous surjection is a quotient map.

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 3]
```diff
@@ -151,6 +151,22 @@ theorem IsOpen.locallyConnectedSpace [LocallyConnectedSpace α] {U : Set α} (hU
...
+  intro F hF y _
+  rw [← hf.isOpen_preimage, isOpen_iff_mem_nhds]
+  intro x hx
+  have hxF : x ∈ f ⁻¹' F := connectedComponentIn_subset F y hx
+  refine Filter.mem_of_superset
+    ((hF.preimage hf.continuous).connectedComponentIn.mem_nhds (mem_connectedComponentIn hxF))
+    fun z hz ↦ ?_
+  rw [mem_preimage, connectedComponentIn_eq hx]
+  exact connectedComponentIn_mono _ (image_preimage_subset f F)
+    (hf.continuous.mapsTo_connectedComponentIn hxF hz)
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]: This long proof suggests that we are missing some APIs. Here's a potentially better way to do this:
1. Prove this formula for the preimage of a connected component :  `f ⁻¹' connectedComponentIn F y = ⋃ x ∈ f ⁻¹' connectedComponentIn F y, connectedComponentIn (f ⁻¹' F) x`. 
2. We want to show that `IsOpen (connectedComponentIn F y)`, and as `f` is a quotient map it suffices to show that `f ⁻¹' connectedComponentIn F y` is open, and by the formula above we know that it is open because it is the union of open sets (where openness of `connectedComponentIn (f ⁻¹' F) x` follows from the `[LocallyConnectedSpace α]`).
3. Moreover, from this proof you can see that we can replace `IsQuotientMap f` with  `IsCoinducing f` (surjection is not needed; see [Topology.isQuotientMap_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Induced.html#Topology.isQuotientMap_iff)).

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 4]
```diff
@@ -162,4 +178,83 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+    suffices himg : Function.eval i '' connectedComponent x = univ by
+      exact ⟨himg ▸ isPreconnected_connectedComponent.image _ (continuous_apply i).continuousOn⟩
+    refine (subset_univ _).antisymm fun z _ ↦
+      ⟨Function.update x i z, htV fun j hj ↦ ?_, by simp⟩
+    rw [Function.update_of_ne (ne_of_mem_of_not_mem hj hiJ)]
+    exact mem_of_mem_nhds (ht j)
+  · rintro (he | ⟨hloc, hfin⟩)
+    · exact ⟨fun x ↦ he.elim x⟩
+    · haveI := hloc
+      exact Pi.locallyConnectedSpace_of_finite_nonpreconnected hfin
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
    · exact locallyConnectedSpace_of_finite_nonpreconnected hfin
```

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 5]
```diff
@@ -162,4 +178,83 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+`∀ i, X i` is locally connected. -/
+theorem Pi.locallyConnectedSpace_of_finite_nonpreconnected [∀ i, TopologicalSpace (X i)]
+    [∀ i, LocallyConnectedSpace (X i)] (hfinite : {i | ¬PreconnectedSpace (X i)}.Finite) :
+    LocallyConnectedSpace (∀ i, X i) := by
+  rw [locallyConnectedSpace_iff_connected_subsets]
+  intro x U hU
+  rw [nhds_pi, Filter.mem_pi] at hU
+  obtain ⟨J, hJ, t, ht, htU⟩ := hU
+  classical
+  set K := J ∪ {i | ¬PreconnectedSpace (X i)} with hK
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
  let K := J ∪ {i | ¬PreconnectedSpace (X i)}
```
And then `hK` is not needed. As `K` is not really used a lot of times I think it also makes sense to replace `K` with `J ∪ {i | ¬PreconnectedSpace (X i)}` in the proof, but this is optional.

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 6]
```diff
@@ -162,4 +178,83 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+    isPreconnected_connectedComponentIn.prod isPreconnected_connectedComponentIn,
+    (prod_mono (connectedComponentIn_subset _ _) (connectedComponentIn_subset _ _)).trans huv⟩
+
+/-- If each `X i` is locally connected and all but finitely many are preconnected, then
+`∀ i, X i` is locally connected. -/
+theorem Pi.locallyConnectedSpace_of_finite_nonpreconnected [∀ i, TopologicalSpace (X i)]
+    [∀ i, LocallyConnectedSpace (X i)] (hfinite : {i | ¬PreconnectedSpace (X i)}.Finite) :
+    LocallyConnectedSpace (∀ i, X i) := by
+  rw [locallyConnectedSpace_iff_connected_subsets]
+  intro x U hU
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
  refine locallyConnectedSpace_iff_connected_subsets.2 fun x U hU ↦ ?_
```
More concise

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 7]
```diff
@@ -162,4 +178,83 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+  rw [nhds_pi, Filter.mem_pi] at hU
+  obtain ⟨J, hJ, t, ht, htU⟩ := hU
+  classical
+  set K := J ∪ {i | ¬PreconnectedSpace (X i)} with hK
+  refine ⟨K.pi fun i ↦ connectedComponentIn (t i) (x i),
+    set_pi_mem_nhds (hJ.union hfinite) fun i _ ↦ connectedComponentIn_mem_nhds (ht i), ?_,
+    fun f hf ↦ htU fun i hiJ ↦ connectedComponentIn_subset _ _ (hf i (mem_union_left _ hiJ))⟩
+  rw [← univ_pi_piecewise_univ]
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean:196]: May you move `classical` just before this line (as this is the lemma that uses `classical`)?

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 8]
```diff
@@ -162,4 +178,83 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+    haveI : ∀ i, Nonempty (X i) := Classical.nonempty_pi.mp ⟨x⟩
+    refine .inr ⟨fun i ↦ ((isOpenMap_eval i).isQuotientMap (continuous_apply i)
+      (Function.surjective_eval i)).locallyConnectedSpace, ?_⟩
+    have hVn : connectedComponent x ∈ 𝓝 x :=
+      isOpen_connectedComponent.mem_nhds mem_connectedComponent
+    rw [nhds_pi, Filter.mem_pi] at hVn
+    obtain ⟨J, hJ, t, ht, htV⟩ := hVn
+    refine hJ.subset fun i hi ↦ by_contra fun hiJ ↦ hi ?_
+    suffices himg : Function.eval i '' connectedComponent x = univ by
+      exact ⟨himg ▸ isPreconnected_connectedComponent.image _ (continuous_apply i).continuousOn⟩
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
    suffices himg : Function.eval i '' connectedComponent x = univ from 
      ⟨himg ▸ isPreconnected_connectedComponent.image _ (continuous_apply i).continuousOn⟩
```
`by exact` is not preferred.

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 9]
```diff
@@ -162,4 +178,83 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+    refine (subset_univ _).antisymm fun z _ ↦
+      ⟨Function.update x i z, htV fun j hj ↦ ?_, by simp⟩
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
    refine (subset_univ _).antisymm fun z _ ↦ ⟨Function.update x i z, htV fun j hj ↦ ?_, by simp⟩
```
No need for a line break like this.

**Review by CoolRmal — COMMENTED** [review]
I only give comments for `LocallyConnectedSpace`, but these should also apply to `LocallyPathConnectedSpace`.

**Comment by CoolRmal** [comment]
awaiting-author

**Comment by korbonits** [comment]
-awaiting-author

File: Mathlib/Topology/Connected/LocallyConnected.lean (hunk 3 above)
Comment (korbonits) [reply Mathlib/Topology/Connected/LocallyConnected.lean]: LMK what you think of the new commit!

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 10]
```diff
@@ -151,6 +151,18 @@ theorem IsOpen.locallyConnectedSpace [LocallyConnectedSpace α] {U : Set α} (hU
...
+theorem Topology.IsCoinducing.locallyConnectedSpace [LocallyConnectedSpace α]
+    [TopologicalSpace β] {f : α → β} (hf : IsCoinducing f) : LocallyConnectedSpace β := by
+  refine locallyConnectedSpace_iff_connectedComponentIn_open.2 fun F hF y _ ↦ ?_
+  rw [← hf.isOpen_preimage, hf.continuous.preimage_connectedComponentIn]
+  exact isOpen_biUnion fun x _ ↦ (hF.preimage hf.continuous).connectedComponentIn
+
+/-- The image of a locally connected space under a quotient map is locally connected. -/
+theorem Topology.IsQuotientMap.locallyConnectedSpace [LocallyConnectedSpace α]
+    [TopologicalSpace β] {f : α → β} (hf : IsQuotientMap f) : LocallyConnectedSpace β :=
+  hf.isCoinducing.locallyConnectedSpace
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]: This should be deleted as [IsQuotientMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Induced.html#Topology.IsQuotientMap) is defined to be [IsCoinducing](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Induced.html#Topology.IsCoinducing)

File: Mathlib/Topology/Connected/Basic.lean [hunk 11]
```diff
@@ -641,6 +641,18 @@ theorem connectedComponentIn_mono (x : α) {F G : Set α} (h : F ⊆ G) :
...
+`f ⁻¹' F` at the points of that preimage. -/
+theorem Continuous.preimage_connectedComponentIn [TopologicalSpace β] {f : α → β}
+    (hf : Continuous f) (F : Set β) (y : β) :
+    f ⁻¹' connectedComponentIn F y =
+      ⋃ x ∈ f ⁻¹' connectedComponentIn F y, connectedComponentIn (f ⁻¹' F) x := by
+  refine subset_antisymm (fun z hz ↦ ?_) (iUnion₂_subset fun x hx z hz ↦ ?_)
+  · exact mem_biUnion hz (mem_connectedComponentIn (connectedComponentIn_subset F y hz))
+  · rw [mem_preimage, connectedComponentIn_eq hx]
+    exact connectedComponentIn_mono _ (image_preimage_subset f F)
+      (hf.mapsTo_connectedComponentIn (connectedComponentIn_subset F y hx) hz)
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/Basic.lean:668]: This should also be true when `f` is continuous on `f ⁻¹' F`. 

For completeness may you also include the corresponding lemma for `connectedComponent`?

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 12]
```diff
@@ -162,4 +174,80 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+theorem Pi.locallyConnectedSpace_iff [∀ i, TopologicalSpace (X i)] :
+    LocallyConnectedSpace (∀ i, X i) ↔
+      IsEmpty (∀ i, X i) ∨
+        (∀ i, LocallyConnectedSpace (X i)) ∧ {i | ¬PreconnectedSpace (X i)}.Finite := by
+  refine ⟨fun h ↦ ?_, ?_⟩
+  · rcases isEmpty_or_nonempty (∀ i, X i) with he | hne
+    · exact .inl he
+    obtain ⟨x⟩ := hne
+    classical
+    haveI : ∀ i, Nonempty (X i) := Classical.nonempty_pi.mp ⟨x⟩
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
    have : ∀ i, Nonempty (X i) := Classical.nonempty_pi.mp ⟨x⟩
```
`haveI` shouldn't be used

File: Mathlib/Topology/Connected/LocallyPathConnected.lean [hunk 13]
```diff
@@ -299,6 +305,84 @@ instance Sigma.locallyPathConnectedSpace {X : ι → Type*}
...
+theorem Pi.locallyPathConnectedSpace_iff {Z : ι → Type*} [∀ i, TopologicalSpace (Z i)] :
+    LocallyPathConnectedSpace (∀ i, Z i) ↔
+      IsEmpty (∀ i, Z i) ∨
+        (∀ i, LocallyPathConnectedSpace (Z i)) ∧ {i | ¬PathConnectedSpace (Z i)}.Finite := by
+  refine ⟨fun h ↦ ?_, ?_⟩
+  · rcases isEmpty_or_nonempty (∀ i, Z i) with he | hne
+    · exact .inl he
+    obtain ⟨x⟩ := hne
+    classical
+    haveI : ∀ i, Nonempty (Z i) := Classical.nonempty_pi.mp ⟨x⟩
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyPathConnected.lean]:
```suggestion
    have : ∀ i, Nonempty (Z i) := Classical.nonempty_pi.mp ⟨x⟩
```

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 14]
```diff
@@ -162,4 +174,80 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+  · rw [piecewise_eq_of_mem _ _ _ hi]
+    exact isPreconnected_connectedComponentIn
+  · rw [piecewise_eq_of_notMem _ _ _ hi]
+    have : PreconnectedSpace (X i) := not_not.mp fun h ↦ hi (mem_union_right _ h)
+    exact isPreconnected_univ
+
+/-- A finite product of locally connected spaces is locally connected. -/
+instance Pi.locallyConnectedSpace_of_finite [Finite ι] [∀ i, TopologicalSpace (X i)]
+    [∀ i, LocallyConnectedSpace (X i)] : LocallyConnectedSpace (∀ i, X i) :=
+  locallyConnectedSpace_of_finite_nonpreconnected (Set.toFinite _)
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
  locallyConnectedSpace_of_finite_nonpreconnected (toFinite _)
```

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 15]
```diff
@@ -162,4 +174,80 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+
+/-- A product of preconnected, locally connected spaces is locally connected. Note that an
+arbitrary product of locally connected spaces need not be locally connected, so the
+preconnectedness assumption cannot be dropped entirely (though it can be dropped for finitely
+many factors, see `Pi.locallyConnectedSpace_of_finite_nonpreconnected`). -/
+instance Pi.locallyConnectedSpace [∀ i, TopologicalSpace (X i)]
+    [∀ i, LocallyConnectedSpace (X i)] [∀ i, PreconnectedSpace (X i)] :
+    LocallyConnectedSpace (∀ i, X i) :=
+  locallyConnectedSpace_of_finite_nonpreconnected
+    (Set.finite_empty.subset fun _ hi ↦ (hi inferInstance).elim)
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
    (finite_empty.subset fun _ hi ↦ (hi inferInstance).elim)
```

File: Mathlib/Topology/Connected/LocallyPathConnected.lean [hunk 16]
```diff
@@ -299,6 +305,84 @@ instance Sigma.locallyPathConnectedSpace {X : ι → Type*}
...
+
+/-- A product of path-connected, locally path-connected spaces is locally path-connected. Note
+that an arbitrary product of locally path-connected spaces need not be locally path-connected, so
+the path-connectedness assumption cannot be dropped entirely (though it can be dropped for
+finitely many factors, see `Pi.locallyPathConnectedSpace_of_finite_nonpathconnected`). -/
+instance Pi.locallyPathConnectedSpace {Z : ι → Type*} [∀ i, TopologicalSpace (Z i)]
+    [∀ i, LocallyPathConnectedSpace (Z i)] [∀ i, PathConnectedSpace (Z i)] :
+    LocallyPathConnectedSpace (∀ i, Z i) :=
+  locallyPathConnectedSpace_of_finite_nonpathconnected
+    (Set.finite_empty.subset fun _ hi ↦ (hi inferInstance).elim)
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyPathConnected.lean]:
```suggestion
    (finite_empty.subset fun _ hi ↦ (hi inferInstance).elim)
```

File: Mathlib/Topology/Connected/LocallyPathConnected.lean [hunk 17]
```diff
@@ -299,6 +305,84 @@ instance Sigma.locallyPathConnectedSpace {X : ι → Type*}
...
+      exact isPathConnected_pathComponentIn (mem_of_mem_nhds (ht i))
+    · rw [piecewise_eq_of_notMem _ _ _ hi]
+      have : PathConnectedSpace (Z i) := not_not.mp fun h ↦ hi (mem_union_right _ h)
+      exact isPathConnected_univ
+
+/-- A finite product of locally path-connected spaces is locally path-connected. -/
+instance Pi.locallyPathConnectedSpace_of_finite [Finite ι] {Z : ι → Type*}
+    [∀ i, TopologicalSpace (Z i)] [∀ i, LocallyPathConnectedSpace (Z i)] :
+    LocallyPathConnectedSpace (∀ i, Z i) :=
+  locallyPathConnectedSpace_of_finite_nonpathconnected (Set.toFinite _)
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyPathConnected.lean]:
```suggestion
  locallyPathConnectedSpace_of_finite_nonpathconnected (toFinite _)
```

File: Mathlib/Topology/Connected/LocallyConnected.lean [hunk 18]
```diff
@@ -162,4 +174,80 @@ instance [LocallyConnectedSpace α] : DiscreteTopology <| ConnectedComponents α
...
+  rintro ⟨x, y⟩ U hU
+  obtain ⟨u, hu, v, hv, huv⟩ := mem_nhds_prod_iff.mp hU
+  exact ⟨connectedComponentIn u x ×ˢ connectedComponentIn v y,
+    prod_mem_nhds (connectedComponentIn_mem_nhds hu) (connectedComponentIn_mem_nhds hv),
+    isPreconnected_connectedComponentIn.prod isPreconnected_connectedComponentIn,
+    (prod_mono (connectedComponentIn_subset _ _) (connectedComponentIn_subset _ _)).trans huv⟩
+
+/-- If each `X i` is locally connected and all but finitely many are preconnected, then
+`∀ i, X i` is locally connected. -/
+theorem Pi.locallyConnectedSpace_of_finite_nonpreconnected [∀ i, TopologicalSpace (X i)]
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyConnected.lean]:
```suggestion
theorem Pi.locallyConnectedSpace_of_finite_not_preconnectedSpace [∀ i, TopologicalSpace (X i)]
```

File: Mathlib/Topology/Connected/LocallyPathConnected.lean [hunk 19]
```diff
@@ -299,6 +305,84 @@ instance Sigma.locallyPathConnectedSpace {X : ι → Type*}
...
+    obtain ⟨u, hu, v, hv, huv⟩ := mem_nhds_prod_iff.mp hU
+    exact ⟨pathComponentIn u x ×ˢ pathComponentIn v y,
+      prod_mem_nhds (pathComponentIn_mem_nhds hu) (pathComponentIn_mem_nhds hv),
+      (isPathConnected_pathComponentIn (mem_of_mem_nhds hu)).prod
+        (isPathConnected_pathComponentIn (mem_of_mem_nhds hv)),
+      (Set.prod_mono pathComponentIn_subset pathComponentIn_subset).trans huv⟩
+
+/-- If each `Z i` is locally path-connected and all but finitely many are path-connected, then
+`∀ i, Z i` is locally path-connected. -/
+theorem Pi.locallyPathConnectedSpace_of_finite_nonpathconnected {Z : ι → Type*}
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/LocallyPathConnected.lean]:
```suggestion
theorem Pi.locallyPathConnectedSpace_of_finite_not_pathConnectedSpace {Z : ι → Type*}
```

File: Mathlib/Topology/Connected/Basic.lean [hunk 20]
```diff
@@ -643,6 +653,34 @@ theorem connectedComponentIn_mono (x : α) {F G : Set α} (h : F ⊆ G) :
...
+
+/-- The preimage of a connected component of `F` is the union of the connected components of
+`f ⁻¹' F` at the points of that preimage. -/
+theorem Continuous.preimage_connectedComponentIn [TopologicalSpace β] {f : α → β}
+    (hf : Continuous f) (F : Set β) (y : β) :
+    f ⁻¹' connectedComponentIn F y =
+      ⋃ x ∈ f ⁻¹' connectedComponentIn F y, connectedComponentIn (f ⁻¹' F) x :=
+  hf.continuousOn.preimage_connectedComponentIn y
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/Basic.lean]: Delete this.

File: Mathlib/Topology/Connected/Basic.lean [hunk 21]
```diff
@@ -643,6 +653,34 @@ theorem connectedComponentIn_mono (x : α) {F G : Set α} (h : F ⊆ G) :
...
+
+/-- The preimage of a connected component is the union of the connected components at the points
+of that preimage. -/
+theorem Continuous.preimage_connectedComponent [TopologicalSpace β] {f : α → β}
+    (hf : Continuous f) (y : β) :
+    f ⁻¹' connectedComponent y = ⋃ x ∈ f ⁻¹' connectedComponent y, connectedComponent x := by
+  simpa only [connectedComponentIn_univ, preimage_univ] using
+    hf.preimage_connectedComponentIn univ y
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/Basic.lean]: I think according to this https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls you should use `simpa` instead of `simpa only` (I think the coding style is a bit vague about the use of `simpa` and I am aware that `simpa only` occurs several times in this file, but it probably has some sorts of historical reason...let's just use `simpa` in our case and do not edit other parts of the file).

File: Mathlib/Topology/Connected/Basic.lean [hunk 22]
```diff
@@ -613,21 +613,31 @@ theorem Continuous.image_connectedComponent_subset [TopologicalSpace β] {f : α
...
+    |>.subset_connectedComponentIn (mem_image_of_mem _ <| mem_connectedComponentIn hx)
+      (image_mono <| connectedComponentIn_subset _ _)
+
 theorem Continuous.image_connectedComponentIn_subset [TopologicalSpace β] {f : α → β} {s : Set α}
     {a : α} (hf : Continuous f) (hx : a ∈ s) :
     f '' connectedComponentIn s a ⊆ connectedComponentIn (f '' s) (f a) :=
-  (isPreconnected_connectedComponentIn.image _ hf.continuousOn).subset_connectedComponentIn
-    (mem_image_of_mem _ <| mem_connectedComponentIn hx)
-    (image_mono <| connectedComponentIn_subset _ _)
+  hf.continuousOn.image_connectedComponentIn_subset hx
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/Basic.lean:627]: Can you deprecate this? Read this post: [#mathlib4 > Deprecation policy](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Deprecation.20policy/with/600960304) if you are unfamiliar with deprecation.

File: Mathlib/Topology/Connected/Basic.lean [hunk 23]
```diff
@@ -613,21 +613,31 @@ theorem Continuous.image_connectedComponent_subset [TopologicalSpace β] {f : α
...
+theorem ContinuousOn.mapsTo_connectedComponentIn [TopologicalSpace β] {f : α → β} {s : Set α}
+    (h : ContinuousOn f s) {a : α} (hx : a ∈ s) :
+    MapsTo f (connectedComponentIn s a) (connectedComponentIn (f '' s) (f a)) :=
+  mapsTo_iff_image_subset.2 <| h.image_connectedComponentIn_subset hx
+
 theorem Continuous.mapsTo_connectedComponentIn [TopologicalSpace β] {f : α → β} {s : Set α}
     (h : Continuous f) {a : α} (hx : a ∈ s) :
     MapsTo f (connectedComponentIn s a) (connectedComponentIn (f '' s) (f a)) :=
-  mapsTo_iff_image_subset.2 <| image_connectedComponentIn_subset h hx
+  h.continuousOn.mapsTo_connectedComponentIn hx
```
Comment (CoolRmal) [inline Mathlib/Topology/Connected/Basic.lean:642]: Can you deprecate this?

**Review by CoolRmal — COMMENTED** [review]
Just some minor changes and we'll be good to go.

**Comment by CoolRmal** [comment]
maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
